US07074243B2
u. Synthesis of 2-[2-amino-4-(benzylamino)phenoxy]ethanol
2.66 g (10 mmol) of 2-(2,4-diaminophenoxy)ethanol and 1.06 g (10 mmol) of benzaldehyde were dissolved in methanol (dried over molecular sieve). After addition of 10 mg of molecular sieve, the reaction mixture was allowed to agitate 7 hours. Then, 20 mL of a solution of borane-tetrahydrofuran com-plex (1 M in tetrahydrofuran) was added at 0° C., and the reaction mixture was allowed to agitate one hour at room temperature. At the end of the reaction, the reaction mixture was filtered and hydrolyzed. The precipitate was filtered off, washed with water and then dried.

reactant | 2-(2,4-diaminophenoxy)ethanol | 10 mmol, 2.66 g | NC1=C(OCCO)C=CC(=C1)N | C8H12N2O2
reactant | benzaldehyde | 10 mmol, 1.06 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | borane tetrahydrofuran | B.O1CCCC1
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-[2-amino-4-(benzylamino)phenoxy]ethanol | NC1=C(OCCO)C=CC(=C1)NCC1=CC=CC=C1 | C15H18N2O2
